US05935997
In a 500 mL flask equipped with magnetic stirrer, N-(t-butyloxycarbonyl)-(D)-phenylalaninol(0.040 mole, 10.05 g) was dissolved in 200 mL of THf and was added with NaH(0.048 mole, 1.15 g) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour, followed by the addition of CS2 (0.048 mole, 3.65 g). After being stirred for 40 min. at 0° C., MeI(0.048 mole, 6.81 g) was added to the reaction mixture. The reaction mixture was stirred at room temperature for 2 hours, followed by the addition of 5N NH4OH (0.090 mole, 18.0 mL) for 6 hours. The resulting solution was quenched with water. The organic layer was extracted 3 times with dichloromethane, dried over magnesium sulfate and distilled in vacuo, to give a solid. This was recrystalized in a solution mixture of n-hexane and diethyl ether, to produce 11.3 g of O-thiocarbamoyl-N-(t-butyloxycarbonyl)-(D)-phenylalaninol: Yield 78%.

reactant | N-(t-butyloxycarbonyl)-(D)-phenylalaninol | 0.040 mole, 10.05 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)CO | C14H21NO3
reactant | NaH | 0.048 mole, 1.15 g | [H-].[Na+]
reactant | CS2 | 0.048 mole, 3.65 g | C(=S)=S | CS2
reactant | MeI | 0.048 mole, 6.81 g | CI | CH3I
reactant | NH4OH | 0.090 mole, 5N, 18.0 mL | [NH4+].[OH-]
product | O-thiocarbamoyl-N-(t-butyloxycarbonyl)-(D)-phenylalaninol | 11.3 g, Yield 78% | C(N)(=S)OC[C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C15H22N2O3S
